US06194409B1
10.2 g of 4-benzyl-2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine were dissolved in 100 mL of ethanol and hydrogenated for 5 hours at room temperature using 1.2 g of palladium (10% on carbon) as catalyst. Filtration followed by removal of the solvent in vacuo gave 6.1 g of 2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine as an oil. EI-MS: 149 (M+).

reactant | 4-benzyl-2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine | 10.2 g | C(C1=CC=CC=C1)N1CCOC2=C(C1)C=CC=C2 | C16H17NO
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium | 1.2 g | [Pd] | Pd
product | 2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine | 6.1 g | O1CCNCC2=C1C=CC=C2 | C9H11NO
